US06004974
1-cyclopentyl-3-ethyl-6(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1-H-pyrazolo[3,4-c]pyridine
A stirred mixture of 3-methoxy-1-(3-methoxyphenyl)-2-oxo-4-propionyl-1,2,5,6-tetrahydro-pyridine (0.49 grams, 1.7 mmole), cyclopentylhydrazine hydrochloride (0.40 grams) and sodium methoxide (46 mg, 0.85 mmole) in anhydrous ethanol was heated to reflux. After 16 hours, the mixture was concentrated under reduced pressure and chromatographed on a silica gel column using 1:4 ethyl acetate/hexane as eluent to give a white solid. Recrystallization from ether gave white needles. M.P. 64.65° C.; MS m/z [M+] 340.2025; HRMS [M+] 340.2046.

reactant | 3-methoxy-1-(3-methoxyphenyl)-2-oxo-4-propionyl-1,2,5,6-tetrahydro-pyridine | 1.7 mmole, 0.49 grams | COC=1C(N(CCC1C(CC)=O)C1=CC(=CC=C1)OC)=O | C16H19NO4
reactant | cyclopentylhydrazine hydrochloride | 0.40 grams | Cl.C1(CCCC1)NN
reactant | sodium methoxide | 0.85 mmole, 46 mg | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1-H-pyrazolo[3,4-c]pyridine | C1(CCCC1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)OC)=O)CC | C20H25N3O2
